US07786111B2
(c) 2-(4-fluoro-3-methylphenyl)-1,1-dimethylethylamine
4.3 g (20.6 mmol) of N-[2-(4-fluoro-3-methylphenyl)-1,1-dimethylethyl]formamide, 20 mL concentrated hydrochloric acid, and 20 mL water are refluxed for 2 hours. The reaction mixture is diluted with water, made alkaline with concentrated sodium hydroxide solution, and extracted with dichloromethane. The organic phases are dried with sodium sulfate and evaporated down. The residue is dissolved in ethyl acetate, combined with ethereal hydrochloric acid, and cooled. The crystals precipitated are suction filtered and washed with diethyl ether and dried. White solid. Yield: 3.9 g (87%, hydrochloride); melting point 196° C.-198° C.

reactant | N-[2-(4-fluoro-3-methylphenyl)-1,1-dimethylethyl]formamide | 20.6 mmol, 4.3 g | FC1=C(C=C(C=C1)CC(C)(C)NC=O)C | C12H16FNO
reactant | hydrochloric acid | 20 mL | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
solvent | water | 20 mL | O | H2O
product | 2-(4-fluoro-3-methylphenyl)-1,1-dimethylethylamine | FC1=C(C=C(C=C1)CC(C)(C)N)C | C11H16FN
